US08097637B2
Step 1: (4-Oxo-cyclohexyl)-acetic acid
Prepared from LiOH hydrolysis of (4-Oxo-Cyclohexyl)-acetic acid methyl ester (commercial available).

reactant | LiOH | [Li+].[OH-]
reactant | (4-Oxo-Cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)=O)=O | C9H14O3
product | (4-Oxo-cyclohexyl)-acetic acid | O=C1CCC(CC1)CC(=O)O | C8H12O3
